US07365085B2
c) {3-[4-Hydroxybutyl]phenyl}acetic acid methyl ester
A solution of {3-[4-(t-butyidimethylsilyloxy)but-1-ynyl]phenyl}acetic acid methyl ester (700 mg, 2.1 mmol) in MeOH (15 ml) was treated with 5% Pd/C (100 mg) and hydrogen gas (1 atm) for 1 hr. The catalyst was filtered, and the solvent evaporated. The residue was dissolved in THF (1 ml), and treated with tetrabutyl ammonium fluoride (2 ml of a 1N solution in THF) for 2 hr. The reaction was diluted with water and extracted with diethyl ether. The organic extracts were washed with water, dried, evaporated, and the volatile organics removed by vacuum to give the title compound as an oil (300 mg, 64%). MS (ESI) 223.2 (M+H)+.

reactant | {3-[4-(t-butyidimethylsilyloxy)but-1-ynyl]phenyl}acetic acid methyl ester | 2.1 mmol, 700 mg | COC(CC1=CC(=CC=C1)C#CCCO[Si](C)(C)C(C)(C)C)=O | C19H28O3Si
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | {3-[4-Hydroxybutyl]phenyl}acetic acid methyl ester | 300 mg, 64% | COC(CC1=CC(=CC=C1)CCCCO)=O | C13H18O3
